US07968538B2
5-Fluoro-2-methoxy-3-methylbenzaldehyde
5-Fluoro-2-hydroxy-3-methylbenzaldehyde (1.24 g, 8.01 mmol) was dissolved in N,N-dimethylformamide (20 mL) and to the solution was added methyl iodide (0.8 mL, 12.71 mmol) and potassium carbonate (3.1 g, 22.52 mmol). The mixture was stirred at 100° C. for one hour, cooled to room temperature and then diluted with water (40 mL). After extraction twice with ethyl acetate (40 mL) the combined organic layer was washed with brine and then dried over Na2SO4. The solvent was removed and the solid residue was treated with methanol. After filtration and drying desired compound was obtained 1.2 g (99%). 1H NMR (400 MHz, CDCl3): δ 0.12 (s, 1H), 7.23 (dd, 1H), 6.85 (dd, 1H), 3.75 (s, 3H), 2.32 (s, 3H).

reactant | 5-Fluoro-2-hydroxy-3-methylbenzaldehyde | 8.01 mmol, 1.24 g | FC=1C=C(C(=C(C=O)C1)O)C | C8H7FO2
reactant | methyl iodide | 12.71 mmol, 0.8 mL | CI | CH3I
reactant | potassium carbonate | 22.52 mmol, 3.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | water | 40 mL | O | H2O
product | 5-Fluoro-2-methoxy-3-methylbenzaldehyde | FC=1C=C(C(=C(C=O)C1)OC)C | C9H9FO2
